US06180622B2
Triphenylphosphine (2.51 g) is added to a solution of 1.23 g of 5-hydroxymethylimidazo[5,1-b]thiazole hydrochloride in 20 ml of DMF, and the mixture is stirred at 100° C. for 12 hr. The solvent is removed by evaporation, and the residue is purified by column chromatography on silica gel (methanol:dichloromethane=5:95) to give 2.1 g of (imidazo[5,1-b]thiazol-5-yl)methyltriphenylphosphonium chloride.

reactant | Triphenylphosphine | 2.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-hydroxymethylimidazo[5,1-b]thiazole hydrochloride | 1.23 g | Cl.OCC1=NC=C2SC=CN21
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (imidazo[5,1-b]thiazol-5-yl)methyltriphenylphosphonium chloride | 2.1 g | [Cl-].S1C=2N(C=C1)C(=NC2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C24H20N2PS.ClH/c1-4-10-20(11-5-1)27(21-12-6-2-7-13-21,22-14-8-3-9-15-22)19-23-25-18-24-26(23)16-17-28-24;/h1-18H,19H2;1H/q+1;/p-1
